** sch_path: /foss/designs/heichip/isource_beta/testbenches/xschem/tb_isource_beta_tran.sch
**.subckt tb_isource_beta_tran
V2 vdd GND {{vdd}}
V3 vdd net1 0
.save i(v3)
x1 vss net1 vss out vss vss GND vdd isource_beta
XM3 out out GND GND sg13_hv_nmos w={{w_load}} l=4u ng=1 m=1 mm_ok=1
**** begin user architecture code


.temp {{ temp }}
.param mc_ok = {{ sigma }}
.option SEED = {{ seed }}
.option method=gear

.control
set num_threads=1

save all
save @n.xm3.nsg13_hv_nmos[ids]
tran 1u 1m
let idd = i(V3)
let iout = @n.xm3.nsg13_hv_nmos[ids]

setplot tran1
wrdata {{ tran_out_path }} iout
quit
.endc





.lib cornerMOShv.lib mos_{{ corner_mos }}
.lib cornerRES.lib res_{{ corner_res }}


**** end user architecture code
**.ends

* expanding   symbol:  heichip/isource_beta/schematic/xschem/isource_beta.sym # of pins=8
** sym_path: /foss/designs/heichip/isource_beta/schematic/xschem/isource_beta.sym
** sch_path: /foss/designs/heichip/isource_beta/schematic/xschem/isource_beta.sch
.subckt isource_beta b0 vdd b1 out b2 b3 vss b4
*.opin out
*.iopin vdd
*.iopin vss
*.iopin b0
*.iopin b1
*.iopin b2
*.iopin b3
*.iopin b4
XM1 net1 net2 vdd vdd sg13_hv_pmos w=4u l=4u ng=1 m=1 mm_ok=1
XM2 net2 net2 vdd vdd sg13_hv_pmos w=4u l=4u ng=1 m=1 mm_ok=1
XM3 net1 net1 vss vss sg13_hv_nmos w=40u l=4u ng=10 m=1 mm_ok=1
XM4 net2 net1 iref vss sg13_hv_nmos w=40u l=4u ng=10 m=3 mm_ok=1
XM5 out net2 vdd vdd sg13_hv_pmos w=4u l=4u ng=1 m=1 mm_ok=1
XMS1 net3 vdd vdd vdd sg13_hv_pmos w=1u l=10u ng=1 m=1 mm_ok=1
XMS2 net3 net1 vss vss sg13_hv_nmos w=10u l=0.45u ng=1 m=1 mm_ok=1
XMS3 net2 net3 vss vss sg13_hv_nmos w=10u l=0.45u ng=1 m=1 mm_ok=1
XR10 net7 vss vss rppd w=1e-6 l=160e-6 m=1 b=0 mm_ok=1
XR2 iref net5 vss rppd w=1e-6 l=10e-6 m=1 b=0 mm_ok=1
XM6 iref b0 net5 vss sg13_hv_nmos w=20u l=0.45u ng=4 m=1 mm_ok=1
XR3 net5 net4 vss rppd w=1e-6 l=20e-6 m=1 b=0 mm_ok=1
XR4 net4 net6 vss rppd w=1e-6 l=40e-6 m=1 b=0 mm_ok=1
XR5 net6 net7 vss rppd w=1e-6 l=80e-6 m=1 b=0 mm_ok=1
XM7 net5 b1 net4 vss sg13_hv_nmos w=20u l=0.45u ng=4 m=1 mm_ok=1
XM8 net4 b2 net6 vss sg13_hv_nmos w=20u l=0.45u ng=4 m=1 mm_ok=1
XM9 net6 b3 net7 vss sg13_hv_nmos w=20u l=0.45u ng=4 m=1 mm_ok=1
XM10 net7 b4 vss vss sg13_hv_nmos w=20u l=0.45u ng=4 m=1 mm_ok=1
.ends

.GLOBAL GND
.end
